US07582775B2
E. 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophene-6-carboxylic acid methyl ester
To a solution of trifluoro-methanesulfonic acid 2-{1-ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophen-6-yl ester (0.66 g, 1.19 mmol) and DMSO (15 mL) is added MeOH (10 mL), NEt3 (0.77 mL), DPPB (0.054 g, 0.13 mmol), Pd(OAc)2 (0.024, 0.01 mmol), and CO (100 psi). The solution is heated at 80° C. overnight, diluted with 1M HCl (100 mL), and extracted with diethyl ether (2×50 mL). The combined organic layers are washed with water (75 mL) then brine (75 mL), dried MgSO4, filtered, and concentrated. The residue is purified by silica gel chromatography (10% to 40% EtOAc gradient) to give the title compound (0.84 g, 2.04 mmol, 68%). 1H NMR (CDCl3), δ 0.75 (t, J=7.2 Hz, 6H), 0.95 (t, J=7.7 Hz, 6H), 1.67 (q, J=14.6, 7.5 Hz, 4H), 2.14-2.25 (m, 7H), 3.81 (s, 2H), 3.95 (s, 3H), 6.73 (d, J=8.7 Hz, 1H), 7.04 (d, J=2.2 Hz, 1H), 7.08 (dd, J=8.4, 2.2 Hz, 1H), 7.20 (s, 1H), 7.71 (d, J=8.5 Hz, 1H), 7.89 (dd, J=8.4, 1.7 Hz, 1H), 8.39 (d, J=1.7 Hz, 1H). LC/MS (m/z): calcd. for C28H37O4S (M+H)+: 469.2; found: 486.2.

reactant | trifluoro-methanesulfonic acid 2-{1-ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophen-6-yl ester | 1.19 mmol, 0.66 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)C1=CC2=C(S1)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C27H33F3O5S2
reactant | DMSO | 15 mL | CS(=O)C | C2H6OS
reactant | MeOH | 10 mL | CO | CH4O
reactant | DPPB | 0.13 mmol, 0.054 g | C1=CC=C(C=C1)P(CCCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C28H28P2
reactant | NEt3 | 0.77 mL | CCN(CC)CC | C6H15N
solvent | HCl | 1M, 100 mL | Cl | ClH
catalyst | Pd(OAc)2 | 0.01 mmol | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophene-6-carboxylic acid methyl ester | 2.04 mmol, 0.84 g, 68% | COC(=O)C=1C=CC2=C(SC(=C2)C(CC)(C2=CC(=C(C=C2)OCC(CC)(O)CC)C)CC)C1 | C28H36O4S
